US07304081B2
3-(1-{[1-(4-Phenoxyphenyl)cyclopropyl]carbonyl}pyrrolidin-3-yl)pyridine
To a solution of 4-{1-[(3-pyridin-3-ylpyrrolidin-1-yl)carbonyl]cyclopropyl}phenol (40.0 mg, 0.000130 mol) in methylene chloride (1 mL, 0.02 mol) were added phenylboronic acid (15.8 mg, 0.000130 mol), copper(II) diacetate (0.0236 g, 0.000130 mol) and molecular sieves at rt. Triethylamine (0.0904 mL, 0.000648 mol) was then added and the reaction mixture was stirred at rt overnight. The reaction mixture was filtered and the filtrate was concentrated. The desired product from the residue was isolated and purified by prep-HPLC. LCMS: m/z 385.1 (M+H)+

reactant | 4-{1-[(3-pyridin-3-ylpyrrolidin-1-yl)carbonyl]cyclopropyl}phenol | 0.000130 mol, 40.0 mg | N1=CC(=CC=C1)C1CN(CC1)C(=O)C1(CC1)C1=CC=C(C=C1)O | C19H20N2O2
reactant | methylene chloride | 0.02 mol, 1 mL | C(Cl)Cl | CH2Cl2
reactant | phenylboronic acid | 0.000130 mol, 15.8 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Triethylamine | 0.000648 mol, 0.0904 mL | C(C)N(CC)CC | C6H15N
catalyst | copper(II) diacetate | 0.000130 mol, 0.0236 g | C(C)(=O)[O-].C(C)(=O)[O-].[Cu+2]
product | 3-(1-{[1-(4-Phenoxyphenyl)cyclopropyl]carbonyl}pyrrolidin-3-yl)pyridine | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1(CC1)C(=O)N1CC(CC1)C=1C=NC=CC1 | C25H24N2O2
